US07312213B2
Step A: tert-Butyl 2,3-dihydro-4H-1,4-benzoxazin-3-one-4-carboxylate
Under an inert atmosphere, 73 mmol of 2H-1,4-benzoxazin-3-one are dissolved in 100 ml of acetonitrile in the presence of 3.65 mmol of 4-dimethylaminopyridine and 80 mmol of di-tert-butyl dicarbonate. The mixture is stirred for 4 hours. After concentration, the residue is taken up in ethyl acetate. The organic phase is washed with a saturated sodium chloride solution, dried over magnesium sulphate, filtered and concentrated. After evaporation of the solvent and purification by chromatography on silica gel (petroleum ether/ethyl acetate: 8/2), the expected product is isolated.

reactant | 2H-1,4-benzoxazin-3-one | 73 mmol | O1CC(NC2=C1C=CC=C2)=O | C8H7NO2
reactant | di-tert-butyl dicarbonate | 80 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 3.65 mmol | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-Butyl 2,3-dihydro-4H-1,4-benzoxazin-3-one-4-carboxylate | O1CC(N(C2=C1C=CC=C2)C(=O)OC(C)(C)C)=O | C13H15NO4
